US05925253
A solution of m-CPBA (32 g) in chloroform (150 ml) was cooled in cold water and then 4-penten-2-yl methacrylate (14 g) was added. The mixture was stirred at 23° C. for 6 hours. The post-reaction mixture was then poured into dilute potassium carbonate (300 ml) and the organic layer was separated. The organic layer was washed with three more portions of carbonate, finally with water and then dried. Remaining solvents were then removed and the residue was subjected to chromatography on silica gel. As a result pure 4,5-epoxypent-2-yl methacrylate (9.5 g) was isolated.

reactant | m-CPBA | 32 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 4-penten-2-yl methacrylate | 14 g | C(C(=C)C)(=O)OC(C)CC=C | C9H14O2
reactant | potassium carbonate | 300 ml | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 4,5-epoxypent-2-yl methacrylate | 9.5 g | C(C(=C)C)(=O)OC(C)CC1CO1 | C9H14O3
